US06150373
A mixture of 0.655 g (1.1 mmol) of methyl 3-[[7-benzylsulfonyl-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoate and 0.55 ml (6 mmol) of aniline was heated at 100° C. for 2 hours. The reaction mixture was partitioned between dichloromethane(10 ml) and 2M hydrochloric acid (10 ml) and the dichloromethane layer separated, washed with saturated aqueous sodium bicarbonate (10 ml), dried over magnesium sulfate, filtered and evaporated. The crude material was purified by flash chromatography on silica gel using 1:1 ethyl acetate/hexane as the eluent. Product containing fractions were combined and evaporated to give 120 mg (20%) of methyl 3-[[7-anilino-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoate as a white solid of melting point 79-82° C. [Mass spectrum (ESI) MH+ =546].

reactant | methyl 3-[[7-benzylsulfonyl-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoate | 1.1 mmol, 0.655 g | C(C1=CC=CC=C1)S(=O)(=O)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)CC=2C=C(C(=O)OC)C=CC2 | C28H23BrN4O5S
reactant | aniline | 6 mmol, 0.55 ml | NC1=CC=CC=C1 | C6H7N
product | methyl 3-[[7-anilino-3-(2-bromophenyl)-1,2,3,4-tetrahydro-2-oxopyrimido[4,5-d]pyrimidin-1-yl]methyl]benzoate | 120 mg, 20% | N(C1=CC=CC=C1)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC=C2)Br)=O)CC=2C=C(C(=O)OC)C=CC2 | C27H22BrN5O3
